US04803200
2-[[1,2-bis(4-Chlorophenyl)-2-oxoethyl]amino]ethanol hydrochloride.
In a closed system equipped with a Dean-Stark trap, a stirred solution of 4,4-dichlorobenzoin (10.0 g, 0.0357 mole), ethanolamine (2.35 g, 0.0385 mole), and a catalytic amount of p-toluenesulfonic aid in 250 ml toluene was heated at reflux temperature for 4 hours and the azeotroped water was collected in the Dean-Stark trap. After cooling, the toluene solution was washed with water, dried over magnesium sulfate and concentrated to an oil. The oil was dissolved in ether, treated with excess ethereal hydrogen chloride and the salt collected under nitrogen. Upon trying to recrystallize the salt from 350 ml of isopropyl ether (necessary for complete solution), 500 ml isopropyl ether, a yellow solid was obtained from this solution which was identified as 4,4'-dichlorobenzil. The filtrate was concentrated to 50 ml and isopropyl ether added to the hot solution until a faint turbidity was obtained. On standing overnight, a white solid was obtained, m.p. 177°-182° C. Recrystallization of the white solid from methanol-isopropyl ether and from acetonitrile-methanol yielded only semisolid salts. These were triturated with methyl ethyl ketone and dried to give 2.04 g total, m.p. 188°-193° C. This material gave a satisfactory elemental analysis for the title compound.

reactant | 4,4-dichlorobenzoin | 0.0357 mole, 10.0 g | ClC1(CC=C(C=C1)C(=O)C(O)C1=CC=CC=C1)Cl | C14H12Cl2O2
reactant | ethanolamine | 0.0385 mole, 2.35 g | C(O)CN | C2H7NO
reactant | 4,4'-dichlorobenzil | ClC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)Cl | C14H8Cl2O2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[[1,2-bis(4-Chlorophenyl)-2-oxoethyl]amino]ethanol hydrochloride | Cl.ClC1=CC=C(C=C1)C(C(=O)C1=CC=C(C=C1)Cl)NCCO | InChI=1S/C16H15Cl2NO2.ClH/c17-13-5-1-11(2-6-13)15(19-9-10-20)16(21)12-3-7-14(18)8-4-12;/h1-8,15,19-20H,9-10H2;1H
